US07244728B2
a) 1-(2-methyl-propenyl)-3,5-bis-trifluoromethyl-benzene
15.88 g (36 mmol) isopropyltriphenylphosphonium iodide are dissolved in 210 mL diethyl ether/tetrahydrofuran (1:1) and cooled to −10° C. At this temperature 25 mL of a 1.6 molar solution of butyllithium in hexane are added dropwise. Then the mixture is stirred for 3 h at ambient temperature and then cooled to −50° C. 9.98 g (40 mmol) of 3,5-bis-trifluoromethyl-benzaldehyde dissolved in 15 ml of tetrahydrofuran are added dropwise and the mixture is stirred overnight while heating to ambient temperature. The reaction mixture is combined with water and hexane, stirred for 30 minutes and then filtered. The organic phase is separated off, washed repeatedly with water, dried with sodium sulphate and evaporated down. The residue is purified by chromatography on a short silica gel column (hexane/ethyl acetate=50:1). Yellow oil.

reactant | isopropyltriphenylphosphonium iodide | 36 mmol, 15.88 g | [I-].C(C)(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | butyllithium | C(CCC)[Li]
reactant | 3,5-bis-trifluoromethyl-benzaldehyde | 40 mmol, 9.98 g | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
reactant | water | O | H2O
solvent | diethyl ether tetrahydrofuran | 210 mL | C(C)OCC.O1CCCC1
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
product | 1-(2-methyl-propenyl)-3,5-bis-trifluoromethyl-benzene | CC(=CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C12H10F6
